US09382241B2
To a 40 mL screw-cap vial was added 6-bromoquinazolin-4-amine (1000 mg, 4.5 mmol), bis(pinacolato)diborane (2 equiv., 8.9 mmol, 2390 mg), Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (0.05 equiv., 0.22 mmol, 158 mg), potassium acetate (3 equiv., 13.4 mmol, 2.00 mol/L, 6.69 mL), and dimethylformamide (12 mL, 153 mmol, 11300 mg). The reaction was capped and shaken at 90° C. overnight. The reaction was cooled to room temperature, then partitioned with ethyl acetate:water. Solids were filtered off (palladium+by-product). Phases were separated. Organic was dried over sodium sulfate, filtered, and concentrated, yielding 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-amine. The boronic ester was carried directly to the cross coupling step due to potential instability.

reactant | 6-bromoquinazolin-4-amine | 4.5 mmol, 1000 mg | BrC=1C=C2C(=NC=NC2=CC1)N | C8H6BrN3
reactant | bis(pinacolato)diborane | 8.9 mmol, 2390 mg, 2 equiv. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 13.4 mmol, 2.00 mol/L, 6.69 mL, 3 equiv. | C(C)(=O)[O-].[K+]
reactant | dimethylformamide | 153 mmol, 12 mL, 11300 mg | CN(C=O)C | C3H7NO
catalyst | Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.22 mmol, 158 mg, 0.05 equiv. | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-amine | CC1(OB(OC1(C)C)C=1C=C2C(=NC=NC2=CC1)N)C | C14H18BN3O2
